US04438120
Preparation of 10,11-dihydro-10-methyl-5-nitrosodibenzo[b,e][1,4]diazepin-11(5H)-one (III, R3 =CH3, R1 =R2 =R4 =R5 =H)
Sodium hydride (2.4 g, 50% oil dispersion) was added in small portions to a water cooled solution of 10,11-dihydro-5-nitrosodibenzo[b,e][1,4]diazepin11(5H)-one (13.5 g) in dimethylformamide (200 ml) such that the temperature did not exceed 20° C. After the addition was complete the mixture was stirred at room temperature for 30 minutes and then treated with methyl iodide (7.0 g) added in one lot. The resulting mixture, after being stirred at room temperature for 2 hours, was poured into an excess of ice and water, and extracted with methylene chloride. The methylene chloride extract was washed with water, dried over magnesium sulfate and the solvent evaporated under reduced pressure. The residue, which contained some dimethylformamide, was repeatedly triturated with water until it turned to a crystalline solid. It was filtered off, washed with water and air-dried to yield the title compound, m.p. 95°-98°.

reactant | Sodium hydride | 2.4 g | [H-].[Na+]
reactant | water | O | H2O
reactant | 10,11-dihydro-5-nitrosodibenzo[b,e][1,4]diazepin11(5H)-one | 13.5 g | N(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C13H9N3O2
reactant | methyl iodide | 7.0 g | CI | CH3I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 10,11-dihydro-10-methyl-5-nitrosodibenzo[b,e][1,4]diazepin-11(5H)-one | CN1C2=C(N(C3=C(C1=O)C=CC=C3)N=O)C=CC=C2 | C14H11N3O2
